US06492394B1
To a solution of N-benzyloxy-2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,6-dimethylbenzenesulfonyl)amino]-3-hydroxypropionamide (450 mg, 0.82 mmol) in pyridine (2 mL) at 0° C. was added acetic anhydride (0.09 mL, 0.98 mmol). The reaction mixture was allowed to warm to room temperature over 12 h and then partitioned between 2 N aqueous hydrochloric acid and methylene chloride (100 mL). The methylene chloride layer was separated, dried over magnesium sulfate, and concentrated. Purification of the residue by preparative TLC (30% ethyl acetate-hexanes) gave N-benzyloxy-2(R)-[(3,4-methylenedioxy-benzyl)-(4-methoxy-2,6-dimethylbenzenesulfonyl)amino]-3-acetoxypropionamide.

reactant | N-benzyloxy-2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,6-dimethylbenzenesulfonyl)amino]-3-hydroxypropionamide | 0.82 mmol, 450 mg | C(C1=CC=CC=C1)ONC([C@@H](CO)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC1=CC2=C(C=C1)OCO2)=O | C27H30N2O8S
reactant | acetic anhydride | 0.98 mmol, 0.09 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-benzyloxy-2(R)-[(3,4-methylenedioxy-benzyl)-(4-methoxy-2,6-dimethylbenzenesulfonyl)amino]-3-acetoxypropionamide | C(C1=CC=CC=C1)ONC([C@@H](COC(C)=O)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC1=CC2=C(C=C1)OCO2)=O | C29H32N2O9S
